US06743809B2
3a, 3-(1-{2-[5-(Acetylamino)-2-methylphenyl]ethyl}piperidin-4-yl)-5-fluoro-1H-indole
Polymer bound 3-[1-(2-{5-amino-2-methylphenyl}ethyl)piperidin-4-yl]-5-fluoro-1H-indole (100 mg, 100 μmol), triethylamine (90 μL), and dimethylaminopyridine (0.50 mL of an 0.2 M solution in dry acetonitrile) were mixed in a reactor tube. The mixture was cooled to 0° C. and treated with acetyl chloride (0.50 mL of an 1M solution in dry acetonitrile). The reaction mixture was left at 0° C. for 2 h. The resin was filtered off and washed with dry acetonitrile (3×1 mL). The resin was treated for 1 h with 1 mL of a mixture of sodium methoxide (2 mL, 5 N sodium methoxide in methanol), methanol (50 mL) and tetrahydrofuran (50 mL). After filtration, the resin was washed with methanol (1 mL). The combined filtrates were loaded on a pre-conditioned ion exchange column (500 mg SCX column, commercially available from Analytical Instruments, part no. 1210-2040), washed with acetonitrile (1 mL) and methanol (1 mL). The product was eluted with 4 M ammonia in methanol. Evaporation of volatile solvents afforded the title compound as a yellow oil (6 mg, 15 μmol). LC/MS (m/z) 394 (MH+), RT=1.98, purity: 88%.

reactant | 3-[1-(2-{5-amino-2-methylphenyl}ethyl)piperidin-4-yl]-5-fluoro-1H-indole | 100 μmol, 100 mg | NC=1C=CC(=C(C1)CCN1CCC(CC1)C1=CNC2=CC=C(C=C12)F)C | C22H26FN3
reactant | triethylamine | 90 μL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(1-{2-[5-(Acetylamino)-2-methylphenyl]ethyl}piperidin-4-yl)-5-fluoro-1H-indole | 15 μmol, 6 mg | C(C)(=O)NC=1C=CC(=C(C1)CCN1CCC(CC1)C1=CNC2=CC=C(C=C12)F)C | C24H28FN3O
